US05100912
(R,R)-1,6-bis[2-(3,4-dimethoxybenzyl)pyrrolidin-1-yl]-1,6-dioxohexane (0.001 mol) in dry THF was added to a solution containing 0.5 mL (0.005 mol) 10M BH3.DMS, and the solution was heated under reflux in an argon atmosphere. Heating was maintained for 2 hours, after which time the mixture was cooled and 10 mL anhydrous methanol was added dropwise. After gas evolution had subsided, 10 mL of saturated HCL-MeOH was added dropwise and the mixture heated under reflux for 15 minutes. The mixture was cooled to room temperature and the solvent removed in vacuo, leaving an oily residue whose volume was further reduced by Kugelrohr distillation (100° C., 0.05 Torr). Finally, the residue was dissolved in isopropyl alcohol, and ether was added until the solution became cloudy. Crystallization occurred overnight, giving (R,R)-1,6-bis[2-(3,4-dimethoxybenzyl)pyrrolidin-1-yl]hexane.

reactant | (R,R)-1,6-bis[2-(3,4-dimethoxybenzyl)pyrrolidin-1-yl]-1,6-dioxohexane | 0.001 mol | COC=1C=C(C[C@@H]2N(CCC2)C(CCCCC(=O)N2[C@H](CCC2)CC2=CC(=C(C=C2)OC)OC)=O)C=CC1OC | C32H44N2O6
reactant | DMS | CSC | C2H6S
reactant | methanol | 10 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | (R,R)-1,6-bis[2-(3,4-dimethoxybenzyl)pyrrolidin-1-yl]hexane | COC=1C=C(C[C@@H]2N(CCC2)CCCCCCN2[C@H](CCC2)CC2=CC(=C(C=C2)OC)OC)C=CC1OC | C32H48N2O4
